US05587487
To a solution of 22.9 g of compound A), 2,3,4,5-tetraiodopyrrole (40.13 mmol), in 170 mL of DMF, 16.05 mL of 2.5 M MeONa in MeOH (40.13 mmol) are added under stirring for 15 min in nitrogen atmosphere. MeOH is removed under reduced pressure and 10 g of ethyl iodoacetate (product instantly prepared from BrCH2COOEt and 4 KI equivalents in acetone) (46.73 mmol) are dropwise added (30 min) to the residue. The solution is kept at room temperature for 1.5 h. After dilution with H2O, an intensely coloured solid precipitates, then is filtered, redissolved in DMF and treated with carbon Carbopuron 4N. The solution is filtered, concentrated to dryness and crystallized from abs. EtOH, to obtain 20 g of 2,3,4,5-tetraiodopyrrol-l-acetic acid (30.45 mmol) ethyl ester.

reactant | 2,3,4,5-tetraiodopyrrole | 40.13 mmol | IC=1NC(=C(C1I)I)I | C4HI4N
reactant | MeONa | 2.5 M, 16.05 mL | CO[Na]
reactant | MeOH | 40.13 mmol | CO | CH4O
reactant | EtOH | CCO | C2H6O
solvent | DMF | 170 mL | CN(C)C=O | C3H7NO
product | 2,3,4,5-tetraiodopyrrol-l-acetic acid | 30.45 mmol, 20 g, Yield: 76% | IC=1N(C(=C(C1I)I)I)CC(=O)O | C6H3I4NO2
